US06784180B2
Preparation of 4-Hydroxy-4-(3-(1-hydroxyethyl)benzo[b]thiophen-2-yl)-1-(t-butyloxycarbonyl)piperidine.
Scheme IA, Step A: To a solution of 3-(1-hydroxyethyl)benzo[b]thiophene (2.036 g, 11.4 mmol) in tetrahydrofuran (75 mL) at −78° C. was added a solution of n-butyllithium (15.7 mL, 25.1 mmol, 1.6 M in hexanes). The solution was warmed to 0° C. for one hour then recooled to −78° C. A solution of 1-t-butyloxycarbonyl-4-piperidone (2.503 g, 12.6 mmol) in tetrahydrofuran was added dropwise and the mixture was warmed to 20° C. After stirring for 6 hours at 20° C. the mixture was diluted with brine and extracted 3 times with ethyl acetate. The combined organics were dried over sodium sulfate then filtered and evaporated. The residue was purified using silica gel chromatography (dichloromethane/5% methanol in dichloromethane gradient eluent) to give 3.75 g (87%) of the intermediate title compound as a yellow amorphous solid. FDMS m/e=378 (M++1).

reactant | 3-(1-hydroxyethyl)benzo[b]thiophene | 11.4 mmol, 2.036 g | OC(C)C=1C2=C(SC1)C=CC=C2 | C10H10OS
reactant | n-butyllithium | 25.1 mmol, 1.6 M, 15.7 mL | C(CCC)[Li]
reactant | 1-t-butyloxycarbonyl-4-piperidone | 12.6 mmol, 2.503 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-Hydroxy-4-(3-(1-hydroxyethyl)benzo[b]thiophen-2-yl)-1-(t-butyloxycarbonyl)piperidine | 3.75 g, 87% | OC1(CCN(CC1)C(=O)OC(C)(C)C)C1=C(C2=C(S1)C=CC=C2)C(C)O | C20H27NO4S
